US06313122B1
B. 4-(N-tert-Butoxycarbonylamino)-2-[1-(4-pyridyl)piperidin-4-ylmethoxycarbonylamino]nitrobenzene
A solution of 2-amino-4-(N-tert-butoxycarbonylamino)nitrobenzene (2.1 g, 8.3 mmol) in toluene (50 mL) was treated with phosgene (1.93M in toluene, 12.9 mL, 24.9 mmol) and the mixture was heated at 50° C. After 2 h, the mixture was concentrated, the residue was dissolved in CH2Cl2 and treated with triethylamine (2.31 mL, 16.6 mmol) and 1-(4-pyridyl)piperidine-4-methanol (1.59 g, 8.29 mmol). After 16 h, the mixture was concentrated and the residue purified by chromatography (9:1 CH2Cl2:MeOH) affording 1.78 g (46%) of the title compound.

reactant | 2-amino-4-(N-tert-butoxycarbonylamino)nitrobenzene | 8.3 mmol, 2.1 g | NC1=C(C=CC(=C1)NC(=O)OC(C)(C)C)[N+](=O)[O-] | C11H15N3O4
reactant | phosgene | 24.9 mmol, 1.93M, 12.9 mL | C(=O)(Cl)Cl | CCl2O
reactant | triethylamine | 16.6 mmol, 2.31 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(4-pyridyl)piperidine-4-methanol | 8.29 mmol, 1.59 g | N1=CC=C(C=C1)N1CCC(CC1)CO | C11H16N2O
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(N-tert-Butoxycarbonylamino)-2-[1-(4-pyridyl)piperidin-4-ylmethoxycarbonylamino]nitrobenzene | 1.78 g, 46% | C(C)(C)(C)OC(=O)NC1=CC(=C(C=C1)[N+](=O)[O-])NC(=O)OC(C1=CC=NC=C1)C1CCNCC1 | C23H29N5O6
